US07348438B2
5,6-Dichloro-1-(3-methyl-benzyl)-2-(2,2,2-trifluoro-ethyl)-1H-benzoimidazole
To 5,6-dichloro-2-(2,2,2-trifluoro-ethyl)-1H-benzimidazole (360 mg) in DMF (5 mL) was added potassium carbonate powder (555 mg) and 3-methylbenzyl bromide (774 mg). The resulting mixture was stirred at room temperature overnight. -The reaction mixture was quenched with water, extracted with EtOAc, and dried over Na2SO4. The crude product was purified by silica gel chromatography (10%-40% EtOAc/hexanes) to yield the title compound as an off-white solid.

reactant | 5,6-dichloro-2-(2,2,2-trifluoro-ethyl)-1H-benzimidazole | 360 mg | ClC1=CC2=C(NC(=N2)CC(F)(F)F)C=C1Cl | C9H5Cl2F3N2
reactant | potassium carbonate | 555 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 3-methylbenzyl bromide | 774 mg | CC=1C=C(CBr)C=CC1 | C8H9Br
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 5,6-Dichloro-1-(3-methyl-benzyl)-2-(2,2,2-trifluoro-ethyl)-1H-benzoimidazole | ClC1=CC2=C(N(C(=N2)CC(F)(F)F)CC2=CC(=CC=C2)C)C=C1Cl | C17H13Cl2F3N2
